Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
clindamycin / hydrocodone / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram ___

 
History of Present Illness:
___ HTN, hypothyroidism, spinal stenosis who is being 
transferred from ___ for NSTEMI  
 Started having substernal chest pain, worse with exertion and 
relieved by rest, about a week ago. She was recently admitted to 
___ and had an abnormal stress test with apical 
ischemia. Apparently she was supposed to follow up with a 
cardiologist but before she could she redeveloped severe 
substernal chest discomfort with associated dyspnea and went 
back to ___. She was given a full aspirin, nitroglycerin x2 
with resolution of her pain. Troponin ultra at ___ was 
elevated at 0.06, BNP 561, Na of 126. Prior to transfer she was 
started on a heparin gtt and had no recurrence of her chest 
pain.  
 During transport the ambulance was cut off by a driver, and the 
patient fell to the right side, striking her head on a cabinet. 
She reports pain to her right forehead, denies generalized 
headache, vision change, vomiting. She denies neck pain. Denies 
chest pain on arrival, denies dyspnea.  
 In the ED initial vitals were T97.3 HR 91 BP 108/68 RR 18 100% 
on RA. EKG notable for: NSR, HR 85, NA, NI, 1mm STD V3-V6, 
improved from ___ (2-3mm). Labs notable for trop of 0.01, 
WBC 11.6, Hg 10.5, plt 296, Na 126. Imaging notable for CT head 
and C-spine with no acute bleed or other injuries. Patient was 
given 4mg of IV morphine for back pain. She was evaluated by the 
cardiology fellow who recommended holding the heparin gtt and 
keeping the patient NPO for cardiac catheterization in the AM.   
 

 
Past Medical History:
-Hypertension  
-Hypothyroidism  
-Spinal stenosis  
 
Social History:
___
Family History:
Mother with CAD
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.6 145/86 85 18 98%RA  
GENERAL: Elderly female, NAD  
HEENT: 3cm hematoma above right eyebrow.  
NECK: No LAD  
CARDIAC: IV/VI systolic ejection murmur. Regular rhythm.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAM:
========================
Tmax= 98.5 HR= ___ RR=20 ___ on RA  
Weight:  81.5
Weight on admission:  81.8
Telemetry: 
PHYSICAL EXAM
GENERAL: Elderly female, NAD  
HEENT: 3cm hematoma above right eyebrow.  
NECK: JVP not elevated
CARDIAC: III/VI systolic ejection murmur. Regular rhythm.  
ABDOMEN: Soft, NTND.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:00PM BLOOD WBC-11.6* RBC-3.47* Hgb-10.5* Hct-32.1* 
MCV-93 MCH-30.3 MCHC-32.7 RDW-12.9 RDWSD-43.5 Plt ___
___ 11:00PM BLOOD Glucose-105* UreaN-15 Creat-0.4 Na-126* 
K-4.2 Cl-89* HCO3-23 AnGap-18
___ 11:00PM BLOOD cTropnT-0.01
___ 05:00AM BLOOD CK-MB-11* MB Indx-10.3* cTropnT-0.03*

DISCHARGE LABS:
================
___ 04:45AM BLOOD WBC-10.9* RBC-3.32* Hgb-10.2* Hct-30.6* 
MCV-92 MCH-30.7 MCHC-33.3 RDW-13.1 RDWSD-44.1 Plt ___
___ 04:45AM BLOOD Glucose-102* UreaN-14 Creat-0.4 Na-128* 
K-4.4 Cl-90* HCO3-23 AnGap-19

IMAGING/STUDIES:
================
CT HEAD ___:
1. No acute intracranial process.  Chronic lacunar infarcts are 
noted in the bilateral basal ganglia. 
  
2. Soft tissue swelling and scalp hematoma are noted in the 
right frontal 
region. 

CT C-SPINE ___:
1. No evidence of cervical spine fracture. 
2. Moderate cervical spondylosis with mild C2 on C3 and C4 on C5 

anterolisthesis, likely degenerative in etiology. 
3. Mild pulmonary edema in the lung apices.

CORONARY ANGIOGRAM ___:
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is patent.
* Left Anterior Descending
There is a 90% stenosis in the Proximal LAD. The lesion has a 
TIMI flow of 3 and has no noted calcification. This lesion is 
further described as focal.
There is a 70% stenosis in the Distal LAD. The lesion has a TIMI 
flow of 3. This lesion is further described as focal.
* Circumflex
LCX is small
There is a 90% stenosis in the Mid Circumflex. The lesion has a 
TIMI flow of 3. This lesion is further described as focal.
There is a 95% stenosis in the Mid Circumflex. The lesion has a 
TIMI flow of 3. This lesion is further described as focal.
OM1 is patent.
* Right Coronary Artery
The RCA is normal.
The Right PDA is normal.
Impressions:
Tightly occluded LAD with successful PCI
Small diameter LCX after OM with sequential severe lesions
Patent RCA
 
TTE ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size, and global systolic function are normal (LVEF>55%). 
There is hypokinesis of the septum. Right ventricular chamber 
size and free wall motion are normal. The aortic valve leaflets 
(3) are mildly thickened. The aortic valve VTI = 77.1 cm. There 
is severe aortic valve stenosis (valve area <1.0cm2). Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. An eccentric, posteriorly directed jet of 
moderate (2+) mitral regurgitation is seen. Moderate [2+] 
tricuspid regurgitation is seen. There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
There is an anterior space which most likely represents a 
prominent fat pad. 

IMPRESSION: Globally preserved biventricular systolic function 
in the setting of septal hypokinesis consistent with proximal 
left anterior descending coronary artery disease. Severe aortic 
stenosis by continuity equation (visually the leaflets appear 
more pliable than suggested). At least moderate mitral 
regurgitation. Moderate tricuspid regurgitation. Moderate 
pulmonary artery systolic hypertension. 
 
Brief Hospital Course:
___ HTN, hypothyroidism, spinal stenosis who presented with 
NSTEMI, transferred from outside hospital for catheterization  

#NSTEMI: ST depressions in V3-V6 on outside hospital ECG and 
mild troponin elevation. Positive stress test at ___ 
___ within past week.  Underwent coronary angiogram showing 
90% LAD lesion and had DES x1 placed. Discharged on aspirin and 
plavix for 12 months DAPT. Also started on rosuvastatin and 
metoprolol TTE post PCI showing globally preserved systolic 
function.
  
#Hyponatremia: Apparently chronic, mid ___. Unresponsive to 
fluid challenge. Asymptomatic

#Frontal Hematoma: Sustained falling off of ambulance bed during 
transfer while on heparin drip. No signs of bleeding or fracture 
on CT head and c-spine. Neuro exam normal.  

#HTN: continued home valsartan 160mg BID  
#Hypothryroidism: Continued home synthroid ___ daily  
#Anxiety: Home Ativan 0.5 BID PRN.

TRANSITIONAL ISSUES:
*New Medications*
[] Aspirin 81 mg daily
[] Clopidogrel 75mg daily
[] Rosuvastatin 40mg daily
[] Metoprolol succinate 25 daily
*Other
[] Follow up TTE results
[] Will need minimum 12 months DAPT for ___, please 
follow-up compliance and duration

# CODE: Full 
# Contact: ___, daughter (c) ___, work ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO BID:PRN anxiety 
2. Acetaminophen w/Codeine ___ TAB PO Q6H:PRN Pain - Mild 
3. Valsartan 160 mg PO BID 
4. Levothyroxine Sodium 150 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 
3.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0 
4.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth daily at night Disp 
#*30 Tablet Refills:*0 
5.  Acetaminophen w/Codeine ___ TAB PO Q6H:PRN Pain - Mild  
6.  Levothyroxine Sodium 150 mcg PO DAILY  
7.  LORazepam 0.5 mg PO BID:PRN anxiety  
8.  Valsartan 160 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-ST-elevation myocardial infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___!

You were admitted to the hospital because testing showed you had 
a heart attack.

What happened while I was in the hospital?
==========================================
-You had a "coronary angiogram" to look at the blood vessels in 
your heart
-This showed a blockage in one of your heart arteries
-A stent was placed to open up the blockage

What should I do after leaving the hospital?
============================================
-You will need to take aspirin 81mg every day indefinitely
-You will need to take clopidogrel (Plavix) 75mg daily for at 
least 12 months. Do not stop this medicine without speaking to 
your cardiologist first
-Please see your primary doctor and cardiologist, your 
appointments are listed below.

Your appointments are listed below.

Thank you for allowing us to be involved in your care, we wish 
you all the best!

Your ___ Healthcare Team

 
Followup Instructions:
___